US05006570
Step I - Preparation of 5-Mercapto-2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid-Intermediate (F)
216 g of 5-chlorosulphonyl-2-methyl-2,3,-dihydrobenzofuran-7-carboxylic acid, 585 ml of acetic acid and 348 g of tin were introduced into a 6-liter round-bottomed flask and 1560 ml of concentrated hydrochloric acid (d =1.18) were then added dropwise, while maintaining the temperature between 45° and 55° C. The contents were then heated for 2 hours at 55°-60° C. until the tin was completely dissolved, and the solution which was poured into 12 liters of water was then filtered. The crystals formed were drained, washed with water and dried at 40° C.

reactant | 5-chlorosulphonyl-2-methyl-2,3,-dihydrobenzofuran-7-carboxylic acid | 216 g | ClS(=O)(=O)C=1C=C(C2=C(CC(O2)C)C1)C(=O)O | C10H9ClO5S
reactant | acetic acid | 585 ml | C(C)(=O)O | C2H4O2
reactant | tin | 348 g | [Sn] | Sn
reactant | hydrochloric acid | 1560 ml | Cl | ClH
solvent | water | 12 liters | O | H2O
product | 5-Mercapto-2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid | SC=1C=C(C2=C(CC(O2)C)C1)C(=O)O | C10H10O3S
